US07888364B2
Procedure G was used to couple 4-chloro-3-(pyridin-2-yl)aniline (40 mg) and 5-(methylsulfonyl)thiophene-2-carboxylic acid to produce N-(4-chloro-3-(pyridin-2-yl)phenyl)-5-(methylsulfonyl)thiophene-2-carboxamide. MS (Q1) 393.0 (M)+.

reactant | 4-chloro-3-(pyridin-2-yl)aniline | 40 mg | ClC1=C(C=C(N)C=C1)C1=NC=CC=C1 | C11H9ClN2
reactant | 5-(methylsulfonyl)thiophene-2-carboxylic acid | CS(=O)(=O)C1=CC=C(S1)C(=O)O | C6H6O4S2
product | N-(4-chloro-3-(pyridin-2-yl)phenyl)-5-(methylsulfonyl)thiophene-2-carboxamide | ClC1=C(C=C(C=C1)NC(=O)C=1SC(=CC1)S(=O)(=O)C)C1=NC=CC=C1 | C17H13ClN2O3S2
